US05141948
To a mixture of 2.77 g (10 millimoles) of 2-amino-2-(4-n-decylphenyl)ethanol, 1.01 g (10 millimoles) of triethylamine and 30 ml of tetrahydrofuran contained in a 100 ml eggplant-shaped (spheroidal) flask, a solution of 1.77 g (10 millimoles) of 2,6-difluorobenzoyl chloride in 15 ml of tetrahydrofuran was added over 30 minutes with stirring at ice-bath temperature. After further continuation of stirring for 3 hours at room temperature, the produced triethylamine hydrochloride was removed by filtration using a glass filter and the filtrate was concentrated under reduced pressure. This concentrate was added with 50 ml of benzene and 3.57 g (30 millimoles) of thionyl chloride, and then refluxed for 3 hours with stirring on an oil bath. The reaction mixture was concentrated under reduced pressure and added with 50 ml of methanol followed by dropwise addition of 2 ml of a 50% aqueous sodium hydroxide solution at 60° C. with stirring. After further continuation of stirring for 30 minutes, the reaction mixture was poured into water and extracted with ethyl acetate followed by desiccation over anhydrous sodium sulfate and concentration under reduced pressure. This concentrate was purified by silica-gel column chromatography using a 8/2 solvent mixture of n-hexane/ethyl acetate as a movable phase to obtain 2-(2,6-difluorophenyl)-4-(4-n-decylphenyl)-2-oxazoline (Compound Number 20).

reactant | 2-amino-2-(4-n-decylphenyl)ethanol | 10 millimoles, 2.77 g | NC(CO)C1=CC=C(C=C1)CCCCCCCCCC | C18H31NO
reactant | triethylamine | 10 millimoles, 1.01 g | C(C)N(CC)CC | C6H15N
reactant | 2,6-difluorobenzoyl chloride | 10 millimoles, 1.77 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | thionyl chloride | 30 millimoles, 3.57 g | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-(2,6-difluorophenyl)-4-(4-n-decylphenyl)-2-oxazoline | FC1=C(C(=CC=C1)F)C=1OCC(N1)C1=CC=C(C=C1)CCCCCCCCCC | C25H31F2NO
